US06908913B2
b) Sodium (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate
4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate (128.5 mg) was dissolved in 6.7 ml of THF and 6.7 ml of 1/15 M sodium phosphate buffer (pH 6.6) to prepare a solution, and 130 mg of 10% Pd-C was added to the solution. The air in the reaction vessel was replaced by hydrogen, and the contents of the reaction vessel were stirred at room temperature for 2 hr. The catalyst was removed by filtration through Celite, followed by washing with water. The filtrate was washed with ethyl acetate and was then concentrated under the reduced pressure to a volume of about 2 ml. The concentrate was purified by column chromatography on Cosmosil 40C18-PREP (5% aqueous methanol solution) to give 40.9 mg of the title compound.

reactant | 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 128.5 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC=CC3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C28H23N5O7S
reactant | sodium phosphate | 15 M, pH 6.6 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | THF | 6.7 ml | C1CCOC1 | C4H8O
catalyst | Pd-C | 130 mg | [Pd] | Pd
product | Sodium (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 40.9 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC=CC3)C(=O)[O-])C1=O.[Na+] | InChI=1S/C21H18N4O5S.Na/c1-9-13(17(21(29)30)25-16(9)14(10(2)26)19(25)28)12-7-24-8-23-15(20(24)31-12)18(27)11-4-3-5-22-6-11;/h3-10,14,16,26H,1-2H3,(H,29,30);/q;+1/p-1/t9-,10+,14+,16+;/m0./s1
